US04159338
Using the procedure described in Example 4A, 100.0 g of 3,4-dichlorophenylacetic acid, 242.0 g of thiophene and 144.0 g of trifluoroacetic anhydride gave from methanol 61.7 g of 2-(3,4-dichlorophenyl)-1-(2-thienyl)ethanone, m.p. 59.5-60.5.

reactant | 3,4-dichlorophenylacetic acid | 100.0 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | thiophene | 242.0 g | S1C=CC=C1 | C4H4S
reactant | trifluoroacetic anhydride | 144.0 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methanol | 61.7 g | CO | CH4O
product | 2-(3,4-dichlorophenyl)-1-(2-thienyl)ethanone | ClC=1C=C(C=CC1Cl)CC(=O)C=1SC=CC1 | C12H8Cl2OS
